US09216999B2
1-[7-(Cyclohexylamino)-3-{[2-(trimethylsilyl)ethoxy]methyl}-3H-imidazo[4,5-b]pyridin-6-yl]ethanone
1-[7-Chloro-3-{[2-(trimethylsilyl)ethoxy]methyl}-3H-imidazo[4,5-b]pyridin-6-yl]ethanone (89.6 mg, 0.275 mmol) and cyclohexylamine (214 mg, 2.16 mmol) in ethylene glycol (2 mL) were stirred at 180° C. for 1 hour under microwave irradiation. The reaction mixture was allowed to cool to room temperature and, after addition of saturated aqueous sodium chloride, extracted with chloroform. The organic layer was stirred with 2 M hydrochloric acid (12 mL) at room temperature for 1 hour. The reaction mixture was basified with 10 M aqueous sodium hydroxide and extracted with chloroform, and the organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography hexane/ethyl acetate=1/1 (v/v)) to give the title compound as a dark brown oil (88.9 mg, yield 83%).

reactant | 1-[7-Chloro-3-{[2-(trimethylsilyl)ethoxy]methyl}-3H-imidazo[4,5-b]pyridin-6-yl]ethanone | 0.275 mmol, 89.6 mg | ClC1=C2C(=NC=C1C(C)=O)N(C=N2)COCC[Si](C)(C)C | C14H20ClN3O2Si
reactant | cyclohexylamine | 2.16 mmol, 214 mg | C1(CCCCC1)N | C6H13N
reactant | sodium chloride | [Cl-].[Na+]
solvent | ethylene glycol | 2 mL | C(CO)O | C2H6O2
product | 1-[7-(Cyclohexylamino)-3-{[2-(trimethylsilyl)ethoxy]methyl}-3H-imidazo[4,5-b]pyridin-6-yl]ethanone | 88.9 mg, yield 83% | C1(CCCCC1)NC1=C2C(=NC=C1C(C)=O)N(C=N2)COCC[Si](C)(C)C | C20H32N4O2Si
